US03991068
3,6-dichloro-2-((4-isocyanatophenoxy)methyl)pyridine
Dry toluene (225 ml) was cooled to a temperature of from about 0 to 5° C. and a stream of phosgene gas passed therethrough until 17.4 grams had been absorbed. A solution of 4-((3,6-dichloro-2-pyridinyl)methoxy)benzenamine (15.8 grams; 0.058 mole) in 125 ml. of toluene was added portionwise thereto over a period of about 8 minutes while maintaining the reaction temperature at about 2° to 5° C. The cloudy reaction mixture was then stirred for about 20 minutes with the temperature thereof slowly increasing as excess phosgene was purged from the reaction mixture with nitrogen. At a temperature of about 85° C., the reaction mixture became clear. The toluene solvent was then removed from the reaction mixture under reduced pressure and the residue obtained extracted with hexane. The yellow crystalline product recovered from the hexane extract upon cooling was identified as the desired 3,6-dichloro-2-((4-isocyanatophenoxy)methyl)pyridine compound and was found to have a melting point of 61.5° - 62.5° C.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 4-((3,6-dichloro-2-pyridinyl)methoxy)benzenamine | 0.058 mole, 15.8 grams | ClC=1C(=NC(=CC1)Cl)COC1=CC=C(C=C1)N | C12H10Cl2N2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 225 ml | C1(=CC=CC=C1)C | C7H8
product | 3,6-dichloro-2-((4-isocyanatophenoxy)methyl)pyridine | ClC=1C(=NC(=CC1)Cl)COC1=CC=C(C=C1)N=C=O | C13H8Cl2N2O2
